US04376731
To 4.67 g. (0.025 mole) diethyl 1,2-aziridine-dicarboxylate in 30 ml. ethanol there is added the equimolar amount of gaseous ammonia dissolved in ethanol and the reaction mixture then left to stand overnight in a refrigerator. The reaction mixture is subsequently evaporated and the desired ethyl 2-carbamoyl-1-aziridine-carboxylate isolated by column chromatography (200 g. silica gel: elution agent acetone/toluene 1:1 v/v). There is obtained 1.4 g. (about 32% of theory) of the ester; m.p. 125°-128° C.

reactant | diethyl 1,2-aziridine-dicarboxylate | 0.025 mole | N1(C(C1)C(=O)OCC)C(=O)OCC | C8H13NO4
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-carbamoyl-1-aziridine-carboxylate | C(N)(=O)C1N(C1)C(=O)OCC | C6H10N2O3
